US08536203B2
To a stirred solution of 3-methoxy-5-nitro-3′-(6-(trifluoromethyl)pyridin-2-yl)biphenyl-4-ol (0.288 g, 0.738 mmol) in 1,2-dichloroethane (10 mL) cooled in an ice-water bath was added aluminium chloride (0.123 g, 0.922 mmol) in one portion followed by pyridine 0.233 g, 2.95 mmol) dropwise. The resulting red suspension was stirred at 80° C. for two hours, then cooled to room temperature and poured onto cold 2 N aqueous hydrochloric acid (100 mL). The precipitate was filtered off, washed with water and dried to give 5-nitro-3′-(6-(trifluoromethyl)pyridin-2-yl)biphenyl-3,4-diol, 0.164 g, (59%).

reactant | 3-methoxy-5-nitro-3′-(6-(trifluoromethyl)pyridin-2-yl)biphenyl-4-ol | 0.738 mmol, 0.288 g | COC=1C=C(C=C(C1O)[N+](=O)[O-])C1=CC(=CC=C1)C1=NC(=CC=C1)C(F)(F)F | C19H13F3N2O4
reactant | aluminium chloride | 0.922 mmol, 0.123 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | pyridine | 2.95 mmol, 0.233 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 2 N, 100 mL | Cl | ClH
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 5-nitro-3′-(6-(trifluoromethyl)pyridin-2-yl)biphenyl-3,4-diol | [N+](=O)([O-])C=1C(=C(C=C(C1)C1=CC(=CC=C1)C1=NC(=CC=C1)C(F)(F)F)O)O | C18H11F3N2O4
